US08703771B2
Step A: N-(2-Methyl-5-nitrophenyl)-4-pyridin-4-ylpyrimidine-2-amine
The title compound was prepared by condensation reaction between (2E)-3-(dimethylamino)-1-pyridin-4-ylprop-2-en-1-one and N-(2-methyl-5-nitrophenyl)guanidine nitrate, according to the procedure described in Step C of EXAMPLE 8. MS (M+1)=308.11.

reactant | (2E)-3-(dimethylamino)-1-pyridin-4-ylprop-2-en-1-one | CN(/C=C/C(=O)C1=CC=NC=C1)C | C10H12N2O
reactant | N-(2-methyl-5-nitrophenyl)guanidine nitrate | [N+](=O)(O)[O-].CC1=C(C=C(C=C1)[N+](=O)[O-])NC(=N)N
product | N-(2-Methyl-5-nitrophenyl)-4-pyridin-4-ylpyrimidine-2-amine | CC1=C(C=C(C=C1)[N+](=O)[O-])NC1=NC=CC(=N1)C1=CC=NC=C1 | C16H13N5O2
